US06277991B1
N-(5-(8-Naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8,-triazaspiro[-4.5]dec-3-yl)pentyl)guanidine
3-(5-Aminopentyl)-8-naphthalen-1-ylmethyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one, di-trifluoroacetate (0.137 g, 0.2 mmol) prepared as described in Example 13, was dissolved in dimethylformamide (1 ml) and diisopropylethylamine (0.233 g, 1.8 mmol) and 3,5-dimethylpyrazol-1-carboxamidine nitrate (0.060 g, 0.3 mmol) was added. The mixture was stirred at room temperature for 1 h and the addition of an equal amount 3,5-dimethylpyrazol-1 carboxamidine nitrate was repeated. After stirring for 16 h the mixture was diluted with water (10 ml) and extracted with ether (5×10 ml). The aqueous phase and undissolved syrup were extracted with dichloromethane (10 ml), the dichloromethane solution was washed with water (5×10 ml), dried over MgSO4 and concentrated in vacuo, affording the title compound (0.047 g, 5.2%) as an amorphous powder.

reactant | 3-(5-Aminopentyl)-8-naphthalen-1-ylmethyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | NCCCCCN1CN(C2(C1=O)CCN(CC2)CC2=CC=CC1=CC=CC=C21)C2=CC=CC=C2 | C29H36N4O
reactant | diisopropylethylamine | 1.8 mmol, 0.233 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3,5-dimethylpyrazol-1-carboxamidine nitrate | 0.3 mmol, 0.060 g | [N+](=O)(O)[O-].CC1=NN(C(=C1)C)C(=N)N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | N-(5-(8-Naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8,-triazaspiro[-4.5]dec-3-yl)pentyl)guanidine | 0.047 g, 5.2% | C1(=CC=CC2=CC=CC=C12)CN1CCC2(C(N(CN2C2=CC=CC=C2)CCCCCNC(=N)N)=O)CC1 | C30H38N6O
